US05318992
Mix N-t-butyloxycarbonyl-N5 -benzyloxycarbonyl-ornithine, t-butyl ester (2.0 g, 5.0 mmol) and 10% palladium/carbon (0.5 g) in 95% ethanol (40 mL). Hydrogenate at room temperature at atmospheric pressure. Filter and evaporate the filtrate in vacuo to give N-t-butyloxycarbonyl-ornithine, t-butyl ester.

reactant | N-t-butyloxycarbonyl-N5 -benzyloxycarbonyl-ornithine, t-butyl ester | 5.0 mmol, 2.0 g | C(C)(C)(C)OC(=O)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H34N2O6
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 0.5 g | [Pd] | Pd
product | N-t-butyloxycarbonyl-ornithine, t-butyl ester | C(C)(C)(C)OC(=O)N[C@@H](CCCN)C(=O)OC(C)(C)C | C14H28N2O4
